US07456164B2
4-{4-[3-(2-Methylpyrrolidin-1-yl)-propoxy]-phenyl}tetra-hydropyran-4-carbonitrile
4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile (315 mg, 1.55 mmol), 1-(3-chloro-propyl)-2-methyl-pyrrolidine (400 mg, 2.48 mmol), DMF (6 ml) and K2CO3 (833 mg, 6.03 mmol) were reacted together according to general procedure E. Purification by chromatography on silica, eluant DCM:MeOH:NH3 (92:6:2) provided the title compound (450 mg, 88%) as an orange oil. 1H NMR (400 MHz, CDCl3), δ 7.37 (d, 2H), 6.93 (d, 2H), 4.12-3.99 (m, 4H), 3.89 (td, 2H), 2.35-1.62 (m, 14H), 1.42 (m, 1H), 1.09 (d, 3H).

reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile | 1.55 mmol, 315 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
reactant | 1-(3-chloro-propyl)-2-methyl-pyrrolidine | 2.48 mmol, 400 mg | ClCCCN1C(CCC1)C | C8H16ClN
reactant | K2CO3 | 6.03 mmol, 833 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 4-{4-[3-(2-Methylpyrrolidin-1-yl)-propoxy]-phenyl}tetra-hydropyran-4-carbonitrile | 450 mg, 88% | CC1N(CCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C20H28N2O2
